* source MCU_POWER_BUTTON
C_C3         N84009 N83805  2.2u  TC=0,0 
C_C1         N83981 N83931  1u  TC=0,0 
R_R4         N83989 N83805  100k TC=0,0 
S_U1         N83981 0 N84131 0 _U1
.MODEL      _U1 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
S_U2         N83989 0 N84303 0 _U2
.MODEL      _U2 VSWITCH Roff=1000000000 Ron=0.01 VH=0 VT=2VDC TD=0
V_V1         N83757 0 3.7VDC
S_U4         0 N83981 N84407 0 _U4
.MODEL      _U4 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2VDC TD=0
R_R3         N84009 N83989  300k TC=0,0 
V_V3         N84303 0  
+PULSE 3.7 0 5.25 0 0 10 20
R_R2         N83931 N83757  100k TC=0,0 
C_C2         N83931 N83757  100n  TC=0,0 
R_R1         N83981 N83757  10k TC=0,0 
V_V2         N84131 0  
+PULSE 0 3.7 5 0 0 0.5 20
V_V8         N84407 0  
+PULSE 0 3.7 15 0 0 3 20
D_D4         N83989 N83981 Dbreak 
C_C4         0 N83805  100n  TC=0,0 
X_U5         N83805 N83931 N83757 ZXMD63P02X/ZTX
X_U6         N83931 N84009 0 ZXMD63N02X/ZTX
R_R5         0 N83805  0.5 TC=0,0 
